US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 2-methoxyethylamine were reacted to yield N4-(3,4-ethylenedioxyphenyl)--5-fluoro-N2-(2-methoxyethyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.81 (bs, 1H), 7.33 (d, 1H, J=2.4 Hz), 6.93 (dd, 1H, J=2.4 Hz and 9 Hz), 6.81 (d, 1H, J=9 Hz), 6.53 (s, 1H), 4.25 (bs, 2H), 3.54 (bs, 2H), 3.36 (s, 3H); LCMS: ret. time: 18.01 min.; purity: 100%; MS (m/e): 321 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | N4-(3,4-ethylenedioxyphenyl)--5-fluoro-N2-(2-methoxyethyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NCCOC | C15H17FN4O3
